US07271197B2
iii) N-Cyclohexyl-3-(hydroxymethyl)-N-{[2-(trimethylsilyl)ethoxy]methyl}benzenesulfonamide
A solution of N-cyclohexyl-3-(hydroxymethyl)benzenesulfonamide (1.744 g) in DMF (30 ml) under nitrogen was treated with sodium hydride (60% dispersion in mineral oil, 311 mg) and the mixture stirred at 20° C. for 0.5 h. 2-(Trimethylsilyl)ethoxymethyl chloride (1.15 ml) was added and the mixture was stirred for a further 2 h at 20° C. Phosphate buffer solution (pH 6.5, 50 ml) and water (50 ml) were added and the mixture was extracted with EtOAc. The combined extracts were washed with water and dried (Na2SO4). Solvent evaporation in vacuo gave a residue which was purified by flash chromatography on silica gel. Elution with EtOAc-petroleum ether (3:7) gave the title compound (1.917 g). LCMS RT=3.83 min.

reactant | N-cyclohexyl-3-(hydroxymethyl)benzenesulfonamide | 1.744 g | C1(CCCCC1)NS(=O)(=O)C1=CC(=CC=C1)CO | C13H19NO3S
reactant | sodium hydride | 311 mg | [H-].[Na+]
reactant | 2-(Trimethylsilyl)ethoxymethyl chloride | 1.15 ml | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | Phosphate | 50 ml, pH 6.5 | P(=O)([O-])([O-])[O-]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | N-Cyclohexyl-3-(hydroxymethyl)-N-{[2-(trimethylsilyl)ethoxy]methyl}benzenesulfonamide | 1.917 g | C1(CCCCC1)N(S(=O)(=O)C1=CC(=CC=C1)CO)COCC[Si](C)(C)C | C19H33NO4SSi
